US05015678
Bis[1-(2-methoxycarbonylethoxy)-2,2,6,6-tetramethylpiperidin-4-yl] Isophthalate
When following the general procedure of Example 3 an equivalent amount of bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) isophthalate is substituted for bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) phthalate, the title compound is obtained as a white solid melting at 94°-96° C.

reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) isophthalate | C(C1=CC(C(=O)OC2CC(N(C(C2)(C)C)O)(C)C)=CC=C1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C26H40N2O6
reactant | bis(1-oxyl-2,2,6,6-tetramethylpiperidin-4-yl) phthalate | C(C=1C(C(=O)OC2CC(N(C(C2)(C)C)O)(C)C)=CC=CC1)(=O)OC1CC(N(C(C1)(C)C)O)(C)C | C26H40N2O6
product | Bis[1-(2-methoxycarbonylethoxy)-2,2,6,6-tetramethylpiperidin-4-yl] Isophthalate | C(C1=CC(C(=O)OC2CC(N(C(C2)(C)C)OCCC(=O)OC)(C)C)=CC=C1)(=O)OC1CC(N(C(C1)(C)C)OCCC(=O)OC)(C)C | C34H52N2O10
